US05616717
A mixture of 2.16 g of 2-picolylamine (20 mmoles) and 2.12 g of benzaldehyde (20 mmoles) was stirred for 5-20 hours. The reaction mixture was diluted with 20 ml of toluene with stirring, then 1.12 g (20 mmoles) of potassium hydroxide added followed by the addition of 3.7 g of tetrabutylammonium iodide (10 mmoles) and 3.55 g of cyclohexylmethyl bromide (20 mmoles). The mixture was refluxed for 6-24 hours, then cooled and stirred with 10 ml of a 2N HCl for 2-6 hours. The organic phase was discarded, the aqueous acidic phase was washed with methylene chloride. The aqueous phase was basified with ammonium hydroxide and the racemic amine extracted with methylene chloride to yield 45%-55% racemic 1-(2-pyridyl)-2-cyclohexylethylamine as a light yellow oil.

reactant | 2-picolylamine | 20 mmoles, 2.16 g | N1=C(C=CC=C1)CN | C6H8N2
reactant | benzaldehyde | 20 mmoles, 2.12 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium hydroxide | 20 mmoles, 1.12 g | [OH-].[K+]
reactant | cyclohexylmethyl bromide | 20 mmoles, 3.55 g | C1(CCCCC1)CBr | C7H13Br
reactant | HCl | 2N | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium iodide | 10 mmoles, 3.7 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | racemic 1-(2-pyridyl)-2-cyclohexylethylamine | 45%-55% | N1=C(C=CC=C1)C(CC1CCCCC1)N | C13H20N2
